US07968581B2
Step 1: (S)-1-(3,4-Dichlorophenyl)-4-hydroxymethyl-4-phenylimidazolidine-2,5-dione
217 mg of (S)-2-hydroxymethyl-2-phenylglycine (prepared according to A.Olma, Polish J. Chem., 70, (1996), 1442-1447) are dissolved in 5 mL of 0.5 N aqueous sodium hydroxide. 300 mg of 3,4-dichlorophenyl isocyanate dissolved in 5 mL dioxan are slowly added over 10 min then the mixture is stirred for 1 h, the pH is around 7 to 7.5. 3 mL of 0.5 N aqueous sodium hydroxide are added to make the pH alkaline then 300 mg of 3,4-dichlorophenyl isocyanate dissolved in 5 mL dioxan are slowly added again. The mixture is stirred for 1 further hour at room temperature then 12N hydrochloric acid is added to acidic pH and the mixture is heated for 1 h at reflux temperature. The dioxan is removed by evaporation under vacuum, the aqueous phase is extracted with ethyl acetate. The extracts are washed with brine, dried over magnesium sulfate and evaporated to dryness. The residue is purified over silica gel while eluting with a gradient mixture from heptane to pure ethyl acetate to provide expected product.

reactant | (S)-2-hydroxymethyl-2-phenylglycine | 217 mg | OC[C@](N)(C(=O)O)C1=CC=CC=C1 | C9H11NO3
reactant | 3,4-dichlorophenyl isocyanate | 300 mg | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
reactant | 3,4-dichlorophenyl isocyanate | 300 mg | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
reactant | hydrochloric acid | 12N | Cl | ClH
solvent | sodium hydroxide | 0.5 N, 5 mL | [OH-].[Na+]
solvent | dioxan | 5 mL | O1CCOCC1 | C4H8O2
solvent | dioxan | 5 mL | O1CCOCC1 | C4H8O2
solvent | sodium hydroxide | 0.5 N, 3 mL | [OH-].[Na+]
product | (S)-1-(3,4-Dichlorophenyl)-4-hydroxymethyl-4-phenylimidazolidine-2,5-dione | ClC=1C=C(C=CC1Cl)N1C(N[C@@](C1=O)(C1=CC=CC=C1)CO)=O | C16H12Cl2N2O3
